US08183275B2
tert-Butyl 4′-(3-oxopropyl)biphenyl-2-carboxylate
To a solution of tert-butyl 4′-(3-hydroxypropyl)biphenyl-2-carboxylate (7.00 g, 22.4 mmol) in CH2Cl2 (200 mL) at 0° C. was added trichloroisocyanuric acid (5.47 g, 23.5 mmol) and 2,2,6,6-tetramethyl-1-piperidinyloxy free radical (35 mg, 0.224 mmol). After stirring at it for 20 min, the reaction mixture was diluted with Et2O (200 mL) and filtered through a silica gel pad, rinsing with Et2O (400 mL). The filtrate was concentrated, and the residue was purified by silica gel column chromatography (5-75% EtOAc in Hexanes) to afford the title compound.

reactant | tert-butyl 4′-(3-hydroxypropyl)biphenyl-2-carboxylate | 22.4 mmol, 7.00 g | OCCCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C20H24O3
reactant | trichloroisocyanuric acid | 23.5 mmol, 5.47 g | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | tert-Butyl 4′-(3-oxopropyl)biphenyl-2-carboxylate | O=CCCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C20H22O3
